* source AAF
R_RL         0 N135639  150  
R_R23         N136303 N135593  1k  
R_R3         N135501 N1359450  680  
D_D3         N1355231 N135501 D1N4148 
R_R17         N170755 N136798  9.1k  
D_D2         N135511 N1355231 D1N4148 
V_V2         N135805 0  AC 1
+SIN 0 1500m 1000 0 0 0
R_R21         N135501 N135505  68  
R_R19         0 N135739  220k  
R_R20         N136087 N135593  1k  
R_R16         0 N136798  1k  
C_C4         N135739 N135805  4.7u  TC=0,0 
R_R22         N135511 0  10k  
V_V1         N135593 0 20Vdc
X_P2         N135361 N1353832 N135365 POT PARAMS: SET=0.7 VALUE=2k
V_V3         0 N135501 20Vdc
D_D1         N135593 N1718681 MLED81
R_R24         0 N1718681  1.8k  
R_R25         N135501 N1720421  1.8k  
D_D4         0 N1720421 MLED81
C_C5         N135639 N170755  4.7u  TC=0,0 
Q_Q1         N136087 N135739 N136261 QBC846B 
Q_Q6         N135361 N136087 N135593 QBC856B 
Q_Q9         N135501 N135365 N170755 QBC807-25 
Q_Q8         N135593 N135361 N170755 QBC817-25 
Q_Q2         N136303 N136798 N136261 QBC846B 
Q_Q7         N135365 N135511 N135505 QBC846B 
Q_Q5         N136261 N135511 N1359450 QBC846B 
Q_Q10         N135361 N1353832 N135365 QBC846B 
C_C6         N135361 N136087  220p  TC=0,0 
C_C7         N135639 N170755  4.7u  TC=0,0 
C_C8         N135739 N135805  4.7u  TC=0,0 
